US07902373B2
Step D: 6-Phenyl-N-[1-(2,2,2-trifluoroethyl)piperidin-4-yl]nicotinamide
To a 250 mL 3-necked flask containing 2-phenyl-5-pyridinecarboxylic acid (2.75 g, 13.8 mmol) in N,N-dimethylacetamide (DMA, 35 mL) was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDAC/EDC*HCl, 2.95 g, 15.2 mmol), 1-hydroxybenzotriazole (HOBt. 1.89 g, 13.8 mmol), 1-(2,2,2-trifluoroethyl)piperidin-4-amine (3.36 g, 15.2 mmol) and 4-methylmorpholine (NMM, 3.8 mL, 34.5 mmol). After stirring at room temperature for 1 hour, the reaction was diluted with water (˜200 mL) and the resulting solid collected by filtration. The solid was washed with H2O (3×100 mL), collected and dried in a vacuum oven (45° C.) overnight to give the desired product (4.24 g). LCMS (ES+) 4.30 min (TIC, 75%; 1H NMR purity >95%); 1H NMR (400 MHz, DMSO-d6) □ ppm 1.46-1.65 (m, 2H) 1.77 (d, J=10.80 Hz, 2 H) 2.31-2.54 (m, 4H) 2.90 (d, J=11.53 Hz, 2H) 3.65-3.86 (m, 1H) 7.36-7.56 (m, 3H) 8.01 (d, J=8.24 Hz, 1H) 8.09 (d, J=6.95 Hz, 2H) 8.22 (d, J=8.42 Hz, 1H) 8.38 (d, J=7.32 Hz, 1H) 9.02 (s, 1 H); MS(ES+) 364 (M+1); HRMS (TOF, ES+) calculated for C19H20F3N3O+H+: 364.1637; observed 364.1611.

reactant | 2-phenyl-5-pyridinecarboxylic acid | 13.8 mmol, 2.75 g | C1(=CC=CC=C1)C1=NC=C(C=C1)C(=O)O | C12H9NO2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 15.2 mmol, 2.95 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 13.8 mmol, 1.89 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(2,2,2-trifluoroethyl)piperidin-4-amine | 15.2 mmol, 3.36 g | FC(CN1CCC(CC1)N)(F)F | C7H13F3N2
reactant | 4-methylmorpholine | 34.5 mmol, 3.8 mL | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylacetamide | 35 mL | CN(C(C)=O)C | C4H9NO
solvent | water | ˜200 mL | O | H2O
product | 6-Phenyl-N-[1-(2,2,2-trifluoroethyl)piperidin-4-yl]nicotinamide | 4.24 g | C1(=CC=CC=C1)C1=NC=C(C(=O)NC2CCN(CC2)CC(F)(F)F)C=C1 | C19H20F3N3O
